US08071607B2
Compound 29A. N-[4-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-3-methoxy-propionamide
Title compound 11A, 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (37 mg, 1.1 eq, 0.16 mmol) was added to a solution of 3-methoxypropionic acid (15.5 mg, 1.0 eq, 0.15 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (25 mg, 1.0 eq, 0.16 mmol), 1-hydroxybenzotriazole (20 mg, 1.0 eq, 0.15 mmol) in DMF (1 ml) which had been stirred for 10 minutes under an inert atmosphere. The reaction was stirred at room temperature for 18 hours, after which methanol (1 ml) was added, and solvent was removed in vacuo. The resultant solid was washed with water and purified by semi-preparative HPLC to yield the title compound as a white solid (9.3 mg, 0.03 mmol, 20%). LCMS: [M+H]+=313, Rt=1.31 min, 100% purity.

reactant | 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.16 mmol, 37 mg, 1.1 eq | NC1=CC=C(C=C1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | 3-methoxypropionic acid | 0.15 mmol, 15.5 mg, 1.0 eq | COCCC(=O)O | C4H8O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.16 mmol, 25 mg, 1.0 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 20 mg, 1.0 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | N-[4-(4-Amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-3-methoxy-propionamide | 0.03 mmol, 9.3 mg, 20% | NC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)NC(CCOC)=O | C15H16N6O2
